US07829717B2
To a solution of tert-butyl 6-aminoindoline-1-carboxylate (3.2 g, 13.68 mmol) in CH2Cl2 (135 mL) was added iPr2NEt (14 mL), 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid hydrochloride (5.27 g, 16.42 mmol), EDC (3.93 g, 20.5 mmol), DMAP (0.81 g, 6.63 mmol), and HOAt (5.5 mL. 0.5M in DMF). The resulting mixture was then heated to reflux under N2 atmosphere. After 8 h the reaction was cooled to rt and then washed with 50% NaCl solution. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to yield a residue that was purified by silica gel chromatography (80% EtOAc in Hexanes 100% EtOAc) to yield tert-butyl 6-({[3-[(quinolin-4-ylmethyl)amino]thien-2-yl]carbonyl}amino)indoline-1-carboxylate as a yellow solid. MS (ES+): m/z 501 [M+1]. 1H NMR (d6-DMSO, 400 MHz): δ1.48 (s, 9H), 2.99 (t, J=8.4 Hz, 2H), 3.90 (t, J=8.4 Hz, 2H), 5.06 (d, J=6.0 Hz, 2H), 6.78 (brs, 1H), 7.07 (d, J=8.4 Hz, 1H), 7.40 (d, J=4.4 Hz, 1H), 7.56 (d, J=5.6 Hz, 1H), 7.66 (t, J=6.8 Hz, 1H), 7.78 (t, J=6.8 Hz, 1H), 8.04 (m, 2H), 8.21 (d, J=8.0 Hz, 1H), 8.82 (d, J=4.4 Hz, 1H), 9.35 (s, 1H).

reactant | tert-butyl 6-aminoindoline-1-carboxylate | 13.68 mmol, 3.2 g | NC1=CC=C2CCN(C2=C1)C(=O)OC(C)(C)C | C13H18N2O2
reactant | iPr2NEt | 14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid hydrochloride | 16.42 mmol, 5.27 g | Cl.N1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)O
reactant | EDC | 20.5 mmol, 3.93 g
reactant | HOAt | 0.5M, 5.5 mL | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | CH2Cl2 | 135 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 6.63 mmol, 0.81 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 6-({[3-[(quinolin-4-ylmethyl)amino]thien-2-yl]carbonyl}amino)indoline-1-carboxylate | N1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)NC1=CC=C2CCN(C2=C1)C(=O)OC(C)(C)C | C28H28N4O3S
